US04550105
To 1 ml of anisole is added 250 mg of sodium cis-3-[2-(2-amino-4-thiazolyl)-2-(1-methyl-1-benzhydryloxycarbonylethyloxyimino)acetamido]-4-carbamoyloxymethyl-2-oxoazetidine-1-sulfonate (syn-isomer) and under stirring at -20° C., 5 ml of trifluoroacetic acid is added dropwise. The mixture is stirred at -15° C. for 30 minutes, after which 10 ml of ether and 10 ml of petroleum ether are added. The resultant powder is recovered by centrifugation and dissolved in water. To the solution is Dowex 50W (H-form) resin, followed by stirring. The resin is filtered off and the filtrate is concentrated and purified by chromatography using an Amberlite XAD-2 (eluent: water, 100 ml; 10% ethanol, 100 ml; 30% ethanol, 100 ml and then 40% ethanol, 50 ml) and the fractions of 30% ethanol and 40% ethanol are lyophilized to give cis-3-[2-(2-amino-4-thiazolyl)-2-(1 -methyl-1-carboxyethyloxyimino)acetamido]-4-carbamoyloxymethyl-2-oxoazetidine-1-sulfonic acid (syn-isomer).

reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | sodium cis-3-[2-(2-amino-4-thiazolyl)-2-(1-methyl-1-benzhydryloxycarbonylethyloxyimino)acetamido]-4-carbamoyloxymethyl-2-oxoazetidine-1-sulfonate | 250 mg | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)[O-])=O)=NOC(C)(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C.[Na+]
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | 10 ml | CCOCC | C4H10O
product | cis-3-[2-(2-amino-4-thiazolyl)-2-(1 -methyl-1-carboxyethyloxyimino)acetamido]-4-carbamoyloxymethyl-2-oxoazetidine-1-sulfonic acid | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O)=NOC(C)(C(=O)O)C | C14H18N6O10S2
